data/polar.json
{"reaction_name": "Pyrrole-forming dicarbonyl condensation sequence", "rsmi": "[C:2]([C:11]([H:4])([H:5])[C:12]([C:3](=[O:14])[CH3:16])([H:6])[H:7])(=[O:13])[CH3:15].[H+:1].[H:8][N:17]([H:9])[H:10]>>[H+:9].[H:1][O:13][H:4].[H:6][O:14][H:10].[c:2]1([CH3:15])[c:11]([H:5])[c:12]([H:7])[c:3]([CH3:16])[n:17]1[H:8]", "epd": [["LP-/Sigma+", [13], [1, 13]], ["LP-/Sigma+", [17], [2, 17]], ["Pi-/LP+", [2, 13], [13]], ["LP-/Sigma+", [13], [4, 13]], ["Sigma-/Pi+", [4, 11], [2, 11]], ["Sigma-/LP+", [2, 13], [13]], ["LP-/Sigma+", [14], [10, 14]], ["Sigma-/LP+", [10, 17], [17]], ["LP-/Sigma+", [17], [3, 17]], ["Pi-/LP+", [3, 14], [14]], ["LP-/Sigma+", [14], [6, 14]], ["Sigma-/Pi+", [6, 12], [3, 12]], ["Sigma-/LP+", [3, 14], [14]], ["Sigma-/LP+", [9, 17], [17]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:3]1[c:9]([CH+:21][c:10]2[cH:4][c:13]([F:17])[cH:20][c:14]([F:18])[cH:5]2)[cH:6][c:11]([F:15])[cH:19][c:12]1[F:16].[n:1]1[cH:8][nH:2][cH:7][cH:22]1>>[n:1]1([CH:21]([c:9]2[cH:3][c:12]([F:16])[cH:19][c:11]([F:15])[cH:6]2)[c:10]2[cH:4][c:13]([F:17])[cH:20][c:14]([F:18])[cH:5]2)[cH:8][nH+:2][cH:7][cH:22]1", "epd": [["LP-/Pi+", [2], [8, 2]], ["Pi-/Sigma+", [1, 8], [1, 21]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1]1=[CH:5][C:16](=[C:4]([CH3:12])[CH3:13])[CH:6]=[CH:2]1.[CH:3](=[O+:15][CH3:14])[c:17]1[cH:10][cH:8][cH:7][cH:9][cH:11]1>>[CH:1]1=[CH:2][CH:6]=[C:16]([C+:4]([CH3:12])[CH3:13])[CH:5]1[CH:3]([O:15][CH3:14])[c:17]1[cH:10][cH:8][cH:7][cH:9][cH:11]1", "epd": [["Pi-/Pi+", [16, 4], [6, 16]], ["Pi-/Pi+", [2, 6], [1, 2]], ["Pi-/Sigma+", [5, 1], [5, 3]], ["Pi-/LP+", [3, 15], [15]]]}
{"reaction_name": "Terminal alkyne deprotonation", "rsmi": "[C:1]([CH3:2])#[C:4][H:5].[NH2-:3]>>[C:1]([CH3:2])#[C-:4].[NH2:3][H:5]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[NH:1]1[CH:3]([C:16](=[O:7])[O-:14])[CH2:9][CH2:15][CH2:4]1.[cH:2]1[cH:5][cH:12][c:11]([N+:8](=[CH2:10])[CH3:17])[cH:13][cH:6]1>>[NH+:1]1([CH2:10][N:8]([c:11]2[cH:12][cH:5][cH:2][cH:6][cH:13]2)[CH3:17])[CH:3]([C:16](=[O:7])[O-:14])[CH2:9][CH2:15][CH2:4]1", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:7]([CH:20]1[N+:28](=[CH:16][CH:48]=[CH:21][c:41]2[cH:17][cH:30][cH:15][cH:31][cH:18]2)[CH:27]([CH2:49][c:45]2[cH:51][cH:24][cH:32][cH:25][cH:52]2)[C:34](=[O:19])[N:46]1[CH3:33])([CH3:42])([CH3:43])[CH3:44].[c:1]1([P:22]([c:2]2[cH:10][cH:37][cH:5][cH:38][cH:11]2)([c:3]2[cH:12][cH:39][cH:6][cH:40][cH:13]2)=[CH:47][C:29]([O:23][CH2:14][CH3:50])=[O:26])[cH:8][cH:35][cH:4][cH:36][cH:9]1>>[c:1]1([P+:22]([c:2]2[cH:10][cH:37][cH:5][cH:38][cH:11]2)([c:3]2[cH:12][cH:39][cH:6][cH:40][cH:13]2)[CH:47]([CH:21]([c:41]2[cH:17][cH:30][cH:15][cH:31][cH:18]2)[CH:48]=[CH:16][N:28]2[CH:20]([C:7]([CH3:42])([CH3:43])[CH3:44])[N:46]([CH3:33])[C:34](=[O:19])[CH:27]2[CH2:49][c:45]2[cH:51][cH:24][cH:32][cH:25][cH:52]2)[C:29]([O:23][CH2:14][CH3:50])=[O:26])[cH:8][cH:35][cH:4][cH:36][cH:9]1", "epd": [["Pi-/Sigma+", [47, 22], [47, 21]], ["Pi-/Pi+", [21, 48], [48, 16]], ["Pi-/LP+", [16, 28], [28]]]}
{"reaction_name": "Hantzsch dihydropyridine synthesis", "rsmi": "[H:13][N:27]([H:14])[H:15].[O:1]=[C:3]([C:17]([H:7])([H:8])[C:23](=[O:19])[CH3:21])[O:25][CH3:11].[O:2]=[C:4]([C:18]([H:9])([H:10])[C:24](=[O:20])[CH3:22])[O:26][CH3:12].[O:5]=[CH:16][CH3:6]>>[H:7][O:19][H:14].[H:9][O:20][H:15].[O:1]=[C:3]([C:17]1=[C:23]([CH3:21])[N:27]([H:13])[CH:16]([CH3:6])[C:24]([CH3:22])=[C:18]1[C:4](=[O:2])[O:26][CH3:12])[O:25][CH3:11].[O:5]([H:8])[H:10]", "epd": [["Pi-/Sigma+", [19, 23], [7, 19]], ["Sigma-/Sigma+", [19, 23], [14, 19]], ["Sigma-/Pi+", [8, 17], [17, 23]], ["Pi-/Sigma+", [5, 16], [5, 8]], ["Pi-/Sigma+", [20, 24], [16, 24]], ["Sigma-/Pi+", [20, 24], [18, 24]], ["Sigma-/Sigma+", [10, 18], [5, 10]], ["Sigma-/Sigma+", [7, 17], [17, 18]], ["Sigma-/Sigma+", [9, 18], [9, 20]], ["Sigma-/Sigma+", [15, 27], [15, 20]], ["Sigma-/Sigma+", [5, 16], [16, 27]], ["Sigma-/Sigma+", [14, 27], [23, 27]]]}
{"reaction_name": "SnCl4-mediated iminium addition", "rsmi": "[CH2:5]([Si:9]([CH3:10])([CH3:11])[CH3:12])[CH:15]=[CH2:14].[CH2:6]=[N+:13]([CH3:7])[CH3:8].[Cl:1][Sn:16]([Cl:2])([Cl:3])[Cl:4]>>[CH2:5]([CH2:6][N:13]([CH3:7])[CH3:8])[CH:15]=[CH2:14].[Cl:1][Sn:16]([Cl:2])([Cl:3])[Cl:4].[Si+:9]([CH3:10])([CH3:11])[CH3:12]", "epd": [["Sigma-/Sigma+", [5, 9], [5, 6]], ["Pi-/LP+", [6, 13], [13]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:4][cH:11][c:9]([N+:7](=[CH2:8])[CH3:13])[cH:12][cH:5]1.[n:2]1[cH:10][nH:3][cH:6][cH:14]1>>[cH:1]1[cH:4][cH:11][c:9]([N:7]([CH2:8][n:2]2[cH:10][nH+:3][cH:6][cH:14]2)[CH3:13])[cH:12][cH:5]1", "epd": [["LP-/Pi+", [3], [10, 3]], ["Pi-/Sigma+", [2, 10], [2, 8]], ["Pi-/LP+", [8, 7], [7]]]}
